* C:\Users\Danae\SoundActivatedLEDs\SoundResopnseLEDCircuit.asc
V1 N007 0 SINE(0 200 200)
XU1 0 N004 V+ V- N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XLP N002 N001 V+ V- outLP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XBP 0 N006 V+ V- outBP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N004 N007 1k
R2 N005 N004 1k
V2 V+ 0 15
V3 0 V- 15
XHP N010 N011 V+ V- outHP level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N001 0 10k
R4 outLP N001 1k
R5 N002 N003 1.5k
R6 N003 inLP 2k
C2 outLP N003 10n
C1 N002 0 10n
V4 inLP 0 SINE(0 1 15k)
C3 outBP N006 10n
C4 N006 N008 10n
R7 outBP N006 1k
R8 N008 inBP 2k
C5 N009 inHP 10n
C6 N010 N009 10n
R9 outHP N009 500
R10 N010 0 2.7k
R11 N011 0 10k
R12 outHP N011 10
V5 inBP 0 SINE(0 1 15k)
V6 inHP 0 SINE(0 1 8k)
.tran 0 0.01 0 0.1u
;ac dec 1 0.01 800
.lib UniversalOpAmp1.lib
.backanno
.end
